US04171365
Hydrazine hydrate (15.7 ml, 0.32 m) was added over a 20 min. period to a slurry of 100 g (0.272 m) of 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-heptanedione in 300 ml of methanol. The internal temperature rose to a maximum of 50° C. during the addition. The reaction mixture was heated at reflux for one hour, and the solvent was then removed in vacuo. The residue was dissolved in 300 ml of methylene dichloride and the resulting solution was washed with three 100 ml portions of water. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to leave 100 g of 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-diethyl-1H-pyrazole as a colorless oil.

reactant | Hydrazine hydrate | 15.7 ml | O.NN
reactant | 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-heptanedione | 100 g | ClC1=C(OCCCCCCC(C(CC)=O)C(CC)=O)C=CC(=C1)OC | C20H29ClO4
solvent | methanol | 300 ml | CO | CH4O
product | 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-diethyl-1H-pyrazole | 100 g | ClC1=C(OCCCCCCC=2C(=NNC2CC)CC)C=CC(=C1)OC | C20H29ClN2O2
